US04997840
A mixture of 4-hydroxy-7-trifluoromethyl-quinoline-1-oxide (2.0 g), methanesulphonic anhydride (1.7 g) and potassium carbonate (1.3 g) in dichloromethane (100 ml) was stirred at 0° for 2 hours. Further methanesulphonic anhydride (1.7 g) and potassium carbonate (1.3 g) were then added and the mixture was stirred at ambient temperature overnight. Water (50 ml) was added and the precipitated solid collected by filtration to give a first crop of the novel compound 4-hydroxy-7-trifluoromethylquinol-3-yl methanesulphonate, m.p. 220°. The dichloromethane layer of the filtrate was separated and the aqueous layer subsequently extracted with dichloromethane (2×25 ml). The combined dichloromethane layer and extracts were evaporated to dryness. The residue was purified by flash chromatography on a silica gel column eluted with dichloromethane:methanol (20:1) to give a second crop of 4-hydroxy-7-trifluoromethylquinol-3-yl methanesulphonate, m.p. 220°.

reactant | 4-hydroxy-7-trifluoromethyl-quinoline-1-oxide | 2.0 g | OC1=CC=[N+](C2=CC(=CC=C12)C(F)(F)F)[O-] | C10H6F3NO2
reactant | methanesulphonic anhydride | 1.7 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulphonic anhydride | 1.7 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-hydroxy-7-trifluoromethylquinol-3-yl methanesulphonate | CS(=O)(=O)OC=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C11H8F3NO4S
